US05852011
3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionic acid
Concentrated hydrochloric acid (10 ml) was added to 1.5 g (4.93 mmol) of methyl 3-[4-[N,N-bis(2-chloroethyl)amino]phenyl]propionate, followed by stirring under heat for 2.5 hours over an oil bath controlled at 90° C. The reaction mixture was diluted with water and was then adjusted to about pH 2 or so with a 5N aqueous solution of sodium hydroxide. The resultant crystals were collected by filtration, whereby 1.21 g (4.17 mmol) of the title compound were obtained as white crystals (yield: 84.6%).

reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | methyl 3-[4-[N,N-bis(2-chloroethyl)amino]phenyl]propionate | 4.93 mmol, 1.5 g | ClCCN(CCCl)C1=CC=C(C=C1)CCC(=O)OC | C14H19Cl2NO2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
product | 3-[4-[N,N-Bis(2-chloroethyl)amino]phenyl]propionic acid | 4.17 mmol, 1.21 g | ClCCN(CCCl)C1=CC=C(C=C1)CCC(=O)O | C13H17Cl2NO2
